US05990136
Step 3 Preparation of N-[[4,5-Dihydro-3-[4-(4-methoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)phenyl]-5-isoxazolyl]methyl]acetamide.
To a flame dried flask containing a pre-stirred slurry of 1-methyl-2-pyrrolidinone (5 mL), tris(dibenzylideneacetone)dipalladium (60 mg, 0.07 mmol), tri(2-furyl)phosphine (30 mg, 0.13 mmol) under an inert atmosphere is added N-[[4,5-dihydro-3-[4-bromophenyl]-5-isoxazolyl]methyl]acetamide (193 mg, 0.65 mmol) and 2-methoxy-5-trimethylstannyltropone in 1-methyl-2-pyrrolidinone (5 mL) and heated to 90° C. for 12 hours. The reaction is diluted with ethyl acetate (100 mL) and water (50 mL). The organic phase is separated and the aqueous phase is extracted with methylene chloride (4×50 mL). The organic extracts are combined, dried over sodium sulfate, concentrated in vacuo and chromatographed on silica gel (230-400 mesh, 100 mL), eluting with chloroform/methanol (98/2). The appropriate fractions are combined (Rf =0.10, TLC, chloroform/methanol, 95/5) and concentrated in vacuo to give the title compound, mp >230° C. The compound of Example 1, Step 1, can be prepared enantiomerically pure by a procedure from Ukaji, Y.; Sada, K.; Inomata, K. Chem. Lett. 1993, pp 1847-1580.

reactant | tri(2-furyl)phosphine | 0.13 mmol, 30 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | N-[[4,5-dihydro-3-[4-bromophenyl]-5-isoxazolyl]methyl]acetamide | 0.65 mmol, 193 mg | BrC1=CC=C(C=C1)C1=NOC(C1)CNC(C)=O | C12H13BrN2O2
reactant | water | 50 mL | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 5 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.07 mmol, 60 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1-methyl-2-pyrrolidinone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | N-[[4,5-Dihydro-3-[4-(4-methoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)phenyl]-5-isoxazolyl]methyl]acetamide | COC1=CC=C(C=CC1=O)C1=CC=C(C=C1)C1=NOC(C1)CNC(C)=O | C20H20N2O4
